US07374745B2
Synthesis of N,N-Bis[2-(docosanoyl)oxyethyl]aminoacetic acid
Bicine (0.95 g, 5.82×10−3 mol, Aldrich®, 99+%) was added to chloroform (30 mL, anhydrous, Aldrich®, 99+%). A concentrate of docosanoyl chloride, prepared by the reaction of docosanoic acid (4.12 g, 1.14×10−2 mol, Aldrich®) with excess oxalyl chloride (Sigma) in chloroform, was added dropwise to the suspension. After stirring for a few minutes, excess pyridine (1.5 mL, anhydrous, Aldrich®, 99+%) was added to the flask. The flask was refluxed overnight. The reaction mixture was acidified with dilute HCl saturated with sodium chloride (Mallinckrodt, AR®). The aqueous phase was separated. Any remaining volatiles were removed from the organic phase under reduced pressure with mild heating. The glassy product was recrystallized from ethanol (Mallinckrodt, AR®). The product was recovered by filtration as an amorphous white solid. The product weighed 2.86 g after vacuum drying for a 61% yield; mp 73-75° C.; Rf=0.23 (silica gel, 10:1; chloroform-methanol). 1H NMR (CDCl3, 99.8% D, 1% TMS, Aldrich): 0.880 ppm (t,); 1.254 ppm (s); IR (paraffin oil) OH 3,100 cm−1; CO 1,760 and 1,700 cm−1 C—O 1,180 cm−1.

reactant | Bicine | 5.82×10−3 mol, 0.95 g | O=C(CN(CCO)CCO)O | C6H13NO4
reactant | docosanoic acid | 1.14×10−2 mol, 4.12 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | HCl | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | N,N-Bis[2-(docosanoyl)oxyethyl]aminoacetic acid | 61% yield | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCCN(CCOC(CCCCCCCCCCCCCCCCCCCCC)=O)CC(=O)O | C50H97NO6
